US04299769
As for Example 1, 3-(5-chloro-2-thenoyl)-2-methylpropionic acid is reacted with L-proline to give 1-[3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline. The mixture of diastereomers is separated. Bromination of [R]-1-[3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline and reaction of the brominated product with sodium thioacetate in acetonitrile gives a mixture of [S-(R*,S*)] and [S-(R*,R*)] isomers of the product of the Example as a glass.

reactant | 3-(5-chloro-2-thenoyl)-2-methylpropionic acid | ClC1=CC=C(S1)C(=O)CC(C(=O)O)C | C9H9ClO3S
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline | ClC1=CC=C(S1)C(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)C | C14H16ClNO4S
